US07696229B2
1. Synthesis of 3-iodo-1H-indole
Into a 500 mL 3-necked round bottom flask, was placed a solution of 1H-indole (10 g, 85.40 mmol) in MeOH/H2O (150/30 mL). To this was added potassium iodide (15.6 g, 93.98 mmol). To the mixture was added sodium hydroxide (3.76 g, 94.00 mmol). To the above was added 12 (23.88 g, 94.02 mmol) in several batches. The resulting solution was allowed to react, with stirring, for 3 hours while the temperature was maintained at room temperature. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:10). The reaction mixture was then quenched by the adding 100 mL of H2O. A filtration was performed. The filter cake was washed 3 times with 200 mL of water. This resulted in 18 g (84%) of 3-iodo-1H-indole as a light yellow solid.

reactant | 1H-indole | 85.40 mmol, 10 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | potassium iodide | 93.98 mmol, 15.6 g | [I-].[K+]
reactant | sodium hydroxide | 94.00 mmol, 3.76 g | [OH-].[Na+]
solvent | MeOH H2O | 30 mL | CO.O
product | 3-iodo-1H-indole | IC1=CNC2=CC=CC=C12 | C8H6IN
